US07645802B2
Dissolution of Bupropion Formulations According to the Invention in Different USP-3 Media
Also, FIG. 68 contains comparative dissolution profiles for Bupropion HBr XL 348 mg final, Wellbutrin XL EC, tablets in different USP-3 media (SGF pH 1.2, acetate buffer pH 4.5 and phosphate buffer pH 6.8) compared against in-vivo data for Bupropion HCl 150 mg XL target (Lot 02A063) over a period of 16 hours.

reactant | Wellbutrin XL | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Cl
reactant | acetate | pH 4.5 | C(C)(=O)[O-]
reactant | phosphate | pH 6.8 | P(=O)([O-])([O-])[O-]
reactant | Bupropion HCl | 150 mg | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C.Cl
product | Bupropion | CC(C(=O)C=1C=CC=C(C1)Cl)NC(C)(C)C | C13H18ClNO
